US05133890
[1-(2-oxo-1-pyrrolidinyl)ethyl]tolyltriazole
A mixture of tolytriazole (26.6 g; 0.2 moles), 1-vinyl-2-pyrrolidinone (22.2 g; 0.2 moles) and para toluene sulphonic acid (0.14 g) is heated in toluene (200 ml), under reflux, for 7 hours. The mixture is then cooled to ambient temperature and washed with 5% sodium bicarbonate solution (50 ml), water (2×50 ml) and finally, dried over anhydrous magnesium sulphate. The dried extract is filtered and then evaporated to yield a yellow oil. Short-path distillation of the crude product yields a pale yellow viscous oil (34.9 g; 71%), bp 175°/0.05 mbar.

reactant | tolytriazole | 0.2 moles, 26.6 g | CC1=CC=CC2=NNN=C12 | C7H7N3
reactant | 1-vinyl-2-pyrrolidinone | 0.2 moles, 22.2 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | para toluene sulphonic acid | 0.14 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | [1-(2-oxo-1-pyrrolidinyl)ethyl]tolyltriazole | O=C1N(CCC1)C(C)C1=C(N=NN1)C1=C(C=CC=C1)C | C15H18N4O
